US04486432
Preparation of 5,8-quinoxalinedione
A suspension of 22 g. of the silver catalyst prepared above, 148 ml. of acetonitrile, and 32 ml. of water was added over a 30 minute period to 2.0 g. of 5,8-dimethoxyquinoxaline. The reaction was stirred for two hours at room temperature. The catalyst was filtered off and washed with methylene chloride. Water was added to the filtrate and the filtrate was then extracted with the methylene chloride used to wash the catalyst. The methylene chloride was dried over sodium sulfate and evaporated to give the title compound as a brown powder which was used without further purification.

reactant | acetonitrile | C(C)#N | C2H3N
reactant | 5,8-dimethoxyquinoxaline | COC1=C2N=CC=NC2=C(C=C1)OC | C10H10N2O2
catalyst | silver | [Ag] | Ag
solvent | water | O | H2O
product | 5,8-quinoxalinedione | N1=CC=NC=2C(C=CC(C12)=O)=O | C8H4N2O2
